US06743789B2
3-(3-Cyclopropyl-[1,2,4]oxadiazol-5-yl)-8-methoxy-4,5-dihydro-2,5,10b-triaza-benzo[e]azulen-6-one
3-(3-Cyclopropyl-[1,2,4]oxadiazol-5-yl)-5-(2,4-dimethoxy-benzyl)-8-methoxy-4,5-dihydro-2,5,10b-triaza-benzo[e]azulen-6-one (5 g, 10.3 mmol) were dissolved in CH2Cl2 (30 mL), cooled to 0° C., then TFA (30 mL) was added, followed by trifluoromethanesulfonic acid (2 mL, 22.9 mmol). The mixture was stirred for 4 h at rt, evaporated, the residue dissolved in CH2Cl2 (100 mL), and extracted with 10% NaHCO3. The product precipitated upon evaporation of CH2Cl2. Yield: 3 g (86%); mp 245° C. m/z 337 (M).

reactant | 3-(3-Cyclopropyl-[1,2,4]oxadiazol-5-yl)-5-(2,4-dimethoxy-benzyl)-8-methoxy-4,5-dihydro-2,5,10b-triaza-benzo[e]azulen-6-one | 10.3 mmol, 5 g | C1(CC1)C1=NOC(=N1)C=1N=CN2C3=C(C(N(CC12)CC1=C(C=C(C=C1)OC)OC)=O)C=C(C=C3)OC | C26H25N5O5
reactant | TFA | 30 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | trifluoromethanesulfonic acid | 22.9 mmol, 2 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-Cyclopropyl-[1,2,4]oxadiazol-5-yl)-8-methoxy-4,5-dihydro-2,5,10b-triaza-benzo[e]azulen-6-one | C1(CC1)C1=NOC(=N1)C=1N=CN2C3=C(C(NCC12)=O)C=C(C=C3)OC | C17H15N5O3
